US08067426B2
Intermediate 55: 2-(Cyclobutyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
Sodium t-butoxide (3.31 g, 34.2 mmol) was added portionwise to cyclobutanol (10 ml) at room temperature. The mixture became very thick and was heated to 50° C. 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2 g, 8.43 mmol) was added followed by 1,2-dimethoxyethane (3 ml) and the mixture stirred at 50° C. for 90 mins. and then cooled and partitioned between ethyl acetate (50 ml) and water (50 ml). A precipitate that failed to dissolve in either phase was removed by filtration. The organic phase was separated, washed with saturated brine, dried over anhydrous magnesium sulphate, filtered and evaporated to give a cream foam. This material was dissolved in dichloromethane and purified on an aminopropyl (NH2) cartridge (110 g) using a 0-100% ethyl acetate in cyclohexane gradient followed by a 0-20% methanol (+1% triethylamine) gradient over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as an off-white solid (0.655 g).

reactant | Sodium t-butoxide | 34.2 mmol, 3.31 g | CC(C)([O-])C.[Na+]
reactant | cyclobutanol | 10 ml | C1(CCC1)O | C4H8O
reactant | 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 8.43 mmol, 2 g | FC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12FN5O
reactant | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(Cyclobutyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 0.655 g | C1(CCC1)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C14H19N5O2
